US05547972
In a similar manner to Example 52d, N-[1-(4-chlorophenyl)ethyl]-3-(imidazol-1-yl)-2,2-dimethylpropionamide (4.0 g) in THF (100 ml) was treated with BH3/THF (52.1 ml, 1M) to give an oil which was distilled at 165° C. (0.05 mmHg) and the lower boiling fraction redistilled to give N-[1-(4-chlorophenyl)ethyl]-3-(imidazol-1-yl)-2,2-dimethylpropylamine, b.p. 160° C. (0.03 mmHg).

reactant | N-[1-(4-chlorophenyl)ethyl]-3-(imidazol-1-yl)-2,2-dimethylpropionamide | 4.0 g | ClC1=CC=C(C=C1)C(C)NC(C(CN1C=NC=C1)(C)C)=O | C16H20ClN3O
reactant | BH3/THF | 1M, 52.1 ml | B.C1CCOC1
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N-[1-(4-chlorophenyl)ethyl]-3-(imidazol-1-yl)-2,2-dimethylpropylamine | ClC1=CC=C(C=C1)C(C)NCC(CN1C=NC=C1)(C)C | C16H22ClN3
